US06872726B2
2-Methoxy-1,3-dinitro-5-trifluoromethylbenzene (3.0 g, 11.3 mmol) was dissolved in 100 mL 50:50 EtOAc:MeOH. Ammonium formate (7.06 g, 112 mmol) was added followed by palladium-on-carbon catalyst (1.0 g). The reaction was heated to a gentle reflux for 45 min, then allowed to cool, and filtered through a plug of diatomaceous earth. The calalyst was washed with EtOAc repeatedly, and the filtrate was in vacuo. The residue was taken up in 500 ml 50% EtOAc in hexanes and filtered through a short plug of silica gel. The filtrate was concentrated in vacuo, providing 2.15 g (10.4 mmol, 95%) of 2-methoxy-5-trifluoromethyl-benzene-1,3-diamine as a brown oil.

reactant | 2-Methoxy-1,3-dinitro-5-trifluoromethylbenzene | 11.3 mmol, 3.0 g | COC1=C(C=C(C=C1[N+](=O)[O-])C(F)(F)F)[N+](=O)[O-] | C8H5F3N2O5
reactant | MeOH | CO | CH4O
reactant | Ammonium formate | 112 mmol, 7.06 g | C(=O)[O-].[NH4+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium-on-carbon | 1.0 g | [Pd] | Pd
product | 2-methoxy-5-trifluoromethyl-benzene-1,3-diamine | 10.4 mmol, 2.15 g, 95% | COC1=C(C=C(C=C1N)C(F)(F)F)N | C8H9F3N2O
